US07148236B2
(i) 7-Methyl-3H-benzooxazol-2-one-6-sulfonic acid
7-Methyl-3H-benzooxazol-2-one [5.0 g, 33 mmol, prepared according to the procedure described in J. Org. Chem. (1982), 47(14), 2804–6) was treated with chlorosulphonic acid as described in Example 15 (i) to give the title compound as an off-white solid (4.5 g, 60%).

reactant | 7-Methyl-3H-benzooxazol-2-one | CC1=CC=CC=2NC(OC21)=O | C8H7NO2
reactant | chlorosulphonic acid | ClS(=O)(=O)O | ClHO3S
product | 7-Methyl-3H-benzooxazol-2-one-6-sulfonic acid | 4.5 g, 60% | CC1=C(C=CC=2NC(OC21)=O)S(=O)(=O)O | C8H7NO5S
